US05804686
4-Oxo-4,5,6,7-tetrahydrobenzofuran-3-carboxylic acid is prepared according to the following procedure. Potassium hydroxide (345 g, 6.15 mol) is dissolved in methyl alcohol (1.2 L) then cooled in an ice water bath. A solution of cyclohexanedione (714 g, 6.15 mol) in methyl alcohol (1.2 L), dissolved using gentle heat, is added dropwise to the cold, stirred KOH solution over 2 h. A solution of ethyl bromopyruvate (1200 g, 6.15 mol) in methyl alcohol (1.5 L) is then added dropwise over 3 h. The reaction mixture is allowed to reach ambient temperature and stirred an additional 14.5 h. While cooling the reaction mixture via a water bath, a solution of sodium hydroxide (492 g, 12.4 mol) in water (984 mL) is added dropwise over 2.5 h. After stirring at ambient temperature for 15.5 h, the reaction mixture is cooled in an ice water bath, 500 g of ice added, and the resulting mixture is then acidified with concentrated hydrochloric acid (ca 1 L) to pH 1. The reaction mixture is concentrated in vacuo, 1 L of ice is added, and the precipitate filtered, washed with ice water (3×200 mL), and then dried in a vacuum oven at 75° C. to afford 4-oxo-4,5,6,7-tetrahydrobenzofuran-3-carboxylic acid (560 g). m.p. 137°-138° C.

reactant | Potassium hydroxide | 6.15 mol, 345 g | [OH-].[K+]
reactant | cyclohexanedione | 6.15 mol, 714 g | C1(C(CCCC1)=O)=O | C6H8O2
reactant | ethyl bromopyruvate | 6.15 mol, 1200 g | BrCC(C(=O)OCC)=O | C5H7BrO3
reactant | sodium hydroxide | 12.4 mol, 492 g | [OH-].[Na+]
reactant | hydrochloric acid | ca 1 L | Cl | ClH
solvent | methyl alcohol | 1.2 L | CO | CH4O
solvent | methyl alcohol | 1.2 L | CO | CH4O
solvent | methyl alcohol | 1.5 L | CO | CH4O
solvent | water | 984 mL | O | H2O
product | 4-oxo-4,5,6,7-tetrahydrobenzofuran-3-carboxylic acid | 560 g | O=C1CCCC2=C1C(=CO2)C(=O)O | C9H8O4
